US05051413
3.7 g of E-2-formylamino-4-bromomethyl-3,6-heptadienoic acid methyl ester are dissolved in 37 ml of triethyl phosphite, and the mixture is heated at75° for 8 hours. Excess triethyl phosphite is then distilled off under a high vacuum. Purification by column chromatography (silica gel, methanol/ethyl acetate 1:10) yields E-2-formylamino-4-diethylphosphonomethyl-3,6-heptadienoic acid methyl ester in the form of a colourless oil, 1H-NMR (CDCl3): 2.54 (d,2H, P--CH2); 3.10 (m, 2H, C(5)--H); 5.10 (m, 2H, C(7)--H); 5.37 (d, 1 H, C(2)--H); 5.74 (m, 1 H, C(6)--H).

reactant | E-2-formylamino-4-bromomethyl-3,6-heptadienoic acid methyl ester | 3.7 g | COC(C(\C=C(/CC=C)\CBr)NC=O)=O | C10H14BrNO3
reactant | triethyl phosphite | 37 ml | P(OCC)(OCC)OCC | C6H15O3P
product | E-2-formylamino-4-diethylphosphonomethyl-3,6-heptadienoic acid methyl ester | COC(C(\C=C(/CC=C)\CP(=O)(OCC)OCC)NC=O)=O | C14H24NO6P
